US07456164B2
Intermediate 64: 4-chloro-N-({4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-yl}methyl)phthalazin-1-amine
A mixture of {4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydropyran-4-yl}methylamine (300 mg, 0.94 mmol), 1,4-dichlorophthalazine (188 mg, 0.94 mmol) and N,N-diisopropylethylamine (410 μl, 2.36 mmol) in N,N-dimethylformamide (1 ml) was stirred at room temperature for 18 hours. More 1,4-dichlorophthalazine (188 mg, 0.94 mmol) was added and the reaction stirred at room temperature for 36 hours, then heated at 55° C. for 18 hours. The reaction mixture was partitioned between ethyl acetate (20 ml) and saturated aqueous sodium bicarbonate solution (20 ml). The organic layer was washed with more aqueous sodium bicarbonate, brine, dried over sodium sulphate, filtered and concentrated in vacuo. The crude product was purified by flash chromatography on silica gel eluting with dichloromethane:methanol:ammonia (100:0:0 to 92:8:0.8 by volume) to provide the title compound (183 mg, 61%). LRMS APCI+ m/z 481 [M]+.

reactant | {4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydropyran-4-yl}methylamine | 0.94 mmol, 300 mg | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)CN | C19H30N2O2
reactant | 1,4-dichlorophthalazine | 0.94 mmol, 188 mg | ClC1=NN=C(C2=CC=CC=C12)Cl | C8H4Cl2N2
reactant | N,N-diisopropylethylamine | 2.36 mmol, 410 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1,4-dichlorophthalazine | 0.94 mmol, 188 mg | ClC1=NN=C(C2=CC=CC=C12)Cl | C8H4Cl2N2
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 4-chloro-N-({4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-yl}methyl)phthalazin-1-amine | 183 mg, 61% | ClC1=NN=C(C2=CC=CC=C12)NCC1(CCOCC1)C1=CC=C(C=C1)OCCCN1CCCC1 | C27H33ClN4O2
